Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mr. ___ is a ___ h/o HTN, HLD, CAD s/p CABGx4  
presenting with generalized abdominal pain x 3 weeks.
Pain initially epigastric. CT at ___ showed "colitis vs. 
inflammation" about 1 wk ago, on cipro/flagyl since ___ but 
no improvement. Noted dark stools; has been taking peptobismol 
and rolaids. Pain worse after eating, leading to ___  wt loss 
over last ___ weeks. Last ___ ___, wnl. EGD ___ with peptic 
ulcers. Taking ibuprofen lately for hip/shoulder OA, off PPI and 
H2 blocker for years.  Presented to ED for worsened pain and 
inability to tolerate PO. 

In the ED intial vitals were: 8 98.1 60 125/68 18 96%. Labs 
unrevealing, CT abd/pevlis no evidence of colitis. Given 2L NS, 
zofran, morphine, donnatol, maalox. Admitted for inability to 
tolerate PO and symptom control. On arrival to floor pain 
decreased from 9 to ___. 

 
Past Medical History:
BENIGN POSITIONAL VERTIGO  
CORONARY ARTERY DISEASE s/p CABGx4 ___  
DEPRESSION  
GRAVES' DISEASE  
HYPERLIPIDEMIA  
HYPERTENSION  
MYOCARDIAL INFARCTION  
injury to right brachial plexus in ___, with residual 
paralysis of right upper limb  
Osteoarthritis both hips. Left total hip arthroplasty, ___.  
History of steroid use  
Asthma  
Cluster headaches  
Prior Etoh usage  
*S/P RIGHT HIP ARTHROPLASTY  
ASTHMA  
E-ANTIGEN NEG BLOOD REQUIRED  
GLAUCOMA  
PROSTHESIS SHOULDER AND HIP  
PSORIASIS  
SHOULDER IMPINGEMENT SYNDROME RIGHT  
THYROTOXICOSIS-AF  
VASECTOMY  
H/O CLUSTER HEADACHES  
H/O GERD  
H/O TOBACCO USE

 
Social History:
___
Family History:
F/H PREMATURE CARDIAC DISEASE in father, mother, and brother  
Father: PUD  

 
Physical Exam:
Admission:
Vitals: 98.1 HR: 60 BP: 125/68 Resp: 18 O(2)Sat: 96 Normal
General- WD WN male, comfortable, in no acute distress  
HEENT-NCAT PERRL EOMI sclera anicteric, MMM, OP clear  
Neck- supple, no LAD, no JVD  
Lungs- normal respiratory effort CTAB no w/r/r  
CV- RRR S1, S2, no murmurs  
Abdomen- soft TTP in epigastrium, ND +BS no rebound or guarding  

GU- no foley  
Ext- WWP, no c/c/e, right hand 4 & ___ digit contraction  
Neuro- CN II-XII grossly intact, BUE and BLE ___ strength, 
sensation grossly intact  

Exam on discharge essentially unchanged
 
Pertinent Results:
Admission Labs:

___ 11:54PM BLOOD WBC-6.0 RBC-4.33* Hgb-13.8* Hct-41.9 
MCV-97 MCH-31.8 MCHC-32.8 RDW-12.7 Plt ___
___ 11:54PM BLOOD Glucose-74 UreaN-10 Creat-0.9 Na-138 
K-3.8 Cl-104 HCO3-27 AnGap-11
___ 11:54PM BLOOD ALT-28 AST-33 AlkPhos-55 TotBili-0.3
___ 11:54PM BLOOD Albumin-4.0
___ 06:00AM BLOOD Calcium-8.8 Phos-3.0 Mg-2.0
___ 11:53PM BLOOD Lactate-0.8

Discharge Labs:
___ 05:37AM BLOOD WBC-4.7 RBC-4.37* Hgb-14.1 Hct-43.1 
MCV-99* MCH-32.3* MCHC-32.7 RDW-12.4 Plt ___
___ 05:37AM BLOOD Glucose-118* UreaN-7 Creat-0.9 Na-141 
K-4.0 Cl-107 HCO3-29 AnGap-9
___ 06:00AM BLOOD tTG-IgA-6

Reports:
CT Abd Pelvis ___
IMPRESSION: 
1.  No evidence of ischemic colitis.  Intra-abdominal aorta and 
its branches demonstrate moderate calcified atherosclerotic 
disease; however, its major branches appear patent and there are 
no aneurysmal changes. 
2.  Hepatic hypodensities, most likely cysts or hamartomas.   
3.  Renal hypodensities, too small to characterize, likely 
cysts. 
4.  Left lung base opacities, may be infectious or inflammatory 
in nature. 

 
Brief Hospital Course:
Mr. ___ is a ___ yo m with PMH of CAD w/ MI and PUD 
presenting with post prandial epigastric abdominal pain x3 
weeks, diarrhea, NSAID use which is concerning for PUD vs. 
gastritis. 

Active Issues:

# Epigastric Abdominal Pain: Pt with normal labs, LFTs, lipase, 
and reassuring CT scan. He had prior scan 1 week ago at OSH 
which was concerning for colitis and he received 6 days of 
cipro/flagyl. Now reporting coffee ground colored stools, not 
currently taking pepto-bismol. No evidence of colitis, 
pancreaitis, or diverticulitis. Given NSAID use, prior PUD, 
post-prandial pain, and epigastric location peptic ulcer disease 
is most likely etiology, but could also represent NSAID 
gastritis. Patient felt maalox made him feel worse. Stopped 
cipro/flagyl on admission since no evidence of colitis; diarrhea 
improved. tTG negative. Treated here with IV PPI initially, 
transitioned back to home PO. Added sucralfate. Tolerated normal 
diet.  he did not provide sample for h. pylori serology.

#Diarrhea. Patient reports frequent watery stools. Was on 
cipro/flagyl recently; may be ___ antibiotics. Diarrhea stopped 
on admission. Ddx also includes celiac disease or infectious 
process. C. diff negative, Ttg negative. Only one small BM this 
admission, soft. 

# Depression/Anxiety:  Paitent with history of suicide attempt 
___ with alcohol and pills. Currently mood is down, but denies 
suicidal ideation.  Saw SW, put in the RIDE application, also 
will assist with food.  Continued home meds. 

Chronic Issues:

# CAD s/p CABG x4:Pt with CAD and CABG in ___. Off aspirin 
since prior PUD in ___.  Continued metoprolol tartrate 100 mg 
tablet by mouth twice a day, atorvastatin 80 mg daily  

# Asthma: Stable, continued Albuterol sulfate HFA  

# Code: Full Code confirmed  
 
# Emergency Contact: ___ (ex-wife) ___, 
___ (brother) ___  

Transitional Issues:

#h/o PUD, possible recurence: 

- EGD/Colonoscopy as outpatient (GI f/u is scheduled)  
- avoid NSAIDs  
- smoking cessation

#Social Issues: Patient put in the RIDE application with social 
work here, will need to make sure this is approved to make 
followup appointments. SW also helping with meals on wheels type 
of program. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing 
2. Clobetasol Propionate 0.05% Ointment 1 Appl TP DAILY 
3. ClonazePAM 2 mg PO BID:PRN anxiety 
4. Metoprolol Tartrate 100 mg PO BID 
5. Sertraline 200 mg PO DAILY 
6. TraZODone 200 mg PO HS:PRN insomnia 
7. Atorvastatin 80 mg PO DAILY 
8. Ibuprofen 600 mg PO Q8H:PRN pain 
9. Pantoprazole 40 mg PO Q24H 

 
Discharge Medications:
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing 
2. Atorvastatin 80 mg PO DAILY 
3. ClonazePAM 2 mg PO BID:PRN anxiety 
4. Metoprolol Tartrate 100 mg PO BID 
5. Sertraline 200 mg PO DAILY 
6. TraZODone 200 mg PO HS:PRN insomnia 
7. Sucralfate 1 gm PO QID 
RX *sucralfate [Carafate] 1 gram 1 tablet(s) by mouth twice a 
day Disp #*28 Tablet Refills:*0
8. Clobetasol Propionate 0.05% Ointment 1 Appl TP DAILY 
9. Omeprazole 40 mg PO DAILY 
RX *omeprazole 40 mg 1 capsule,delayed ___ by 
mouth daily Disp #*14 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal Pain
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted to the hospital with abdominal pain.  You had 
a CT scan and many blood tests which did not show a cause for 
your pain. It is still possible that you have peptic ulcer 
disease. One test for a bacteria that can cause this (H. Pylori) 
is pending; if positive you will need to take antibiotics.  In 
addition, you will see a gastroenterologist to consider an 
endoscopy.  If you have difficulty scheduling the RIDE, please 
contact Dr. ___ office to assist with this. 

Since you have a history of peptic ulcer disease and your 
symptoms are concerning for a recurrence you will be prescribed 
omeprazole (prilosec) 40mg once daily and sucralfate twice 
daily. Take these medications until you followup in your primary 
care doctor's office; he may ask you to continue until you see 
the gastroenterologist. If your h. pylori test is positive, your 
primary care doctor ___ likely treat you with antibiotics. 
 
Followup Instructions:
___